US07723330B2
Step E: Preparation of 1-(4-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-3-(2-phenylacetyl)thiourea:
To a stirred solution of 4-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorobenzenamine (0.504 g, 1.38 mmol; obtained from Example 1, Step D in THF (5 mL) was added 2-phenylethanoyl isothiocyanate (0.294 g, 1.66 mmol; prepared according to J. Org. Chem. 1964, 29, 1115-1119). The reaction was stirred at room temperature for 30 minutes. The reaction mixture was loaded directly onto a preparative TLC plate, eluting with 5% MeOH/DCM. The product was obtained as a waxy solid (630 mg, 71%). LRMS (APCI+): 93% purity, 220 nm, m/z 542 (M+1) detected; 1H NMR (400 MHz, CDCl3) δ 12.49 (br s, 1H), 8.50 (br s, 1H), 8.38 (d, J=5.5 Hz, 1H), 7.94 (m, 1H), 7.82 (s, 1H), 7.42 (m, 4H), 7.32 (m, 4H), 7.26 (m, 1H, overlaps CHCl3), 6.83 (d, J=8.6 Hz, 2H), 6.42 (d, J=5.5 Hz, 1H), 5.63 (s, 2H), 3.76 (s, 3H), 3.75 (s, 2H); 19F NMR (376 MHz, CDCl3) δ −126.3 (m).

reactant | 4-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorobenzenamine | COC1=CC=C(CN2N=CC=3C2=NC=CC3OC3=C(C=C(C=C3)N)F)C=C1 | C20H17FN4O2
reactant | 2-phenylethanoyl isothiocyanate | 1.66 mmol, 0.294 g | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(4-(1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-3-(2-phenylacetyl)thiourea | 630 mg, 71% | COC1=CC=C(CN2N=CC=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=S)NC(CC3=CC=CC=C3)=O)F)C=C1 | C29H24FN5O3S
